US06509328B1
3-(5-Cyano-thiophen-2-yl)-3-oxo-propionic Acid tert.-Butyl Ester
Prepared from ethyl 5-cyano-2-thiophenecarboxylate [CAS-No. 67808-35-9] by treatment with lithium tert.-butyl acetate according to general procedure H (method b). Obtained as a yellow solid (6.66 g).

reactant | ethyl 5-cyano-2-thiophenecarboxylate | C(#N)C1=CC=C(S1)C(=O)OCC | C8H7NO2S
reactant | lithium tert.-butyl acetate | C(C)(=O)OC(C)(C)C.[Li]
product | 3-(5-Cyano-thiophen-2-yl)-3-oxo-propionic Acid tert.-Butyl Ester | 6.66 g | C(C)(C)(C)OC(CC(=O)C=1SC(=CC1)C#N)=O | C12H13NO3S
